US03984549
1.1 G. of freshly distilled 5-chloro-2-pyridyl isothiocyanate is dissolved in 5 ml. acetonitrile and allowed to stand at room temperature for 3 days. The reaction mixture is filtered and the solid material washed with acetonitrile affording 7-chloro-3-(5-chloro-2-pyridyl) pyrido-(1,2-a) 1,3,5-triazine-2,4-dithione m.p. 131°-132° C.

reactant | 5-chloro-2-pyridyl isothiocyanate | ClC=1C=CC(=NC1)N=C=S | C6H3ClN2S
solvent | acetonitrile | C(C)#N | C2H3N
product | 7-chloro-3-(5-chloro-2-pyridyl) pyrido-(1,2-a) 1,3,5-triazine-2,4-dithione | ClC=1C=CC=2N(C(N(C(N2)=S)C2=NC=C(C=C2)Cl)=S)C1 | C12H6Cl2N4S2
